US07868206B2
The compounds of the present invention can be synthesized from trifluoromethionine, for example. For example, trifluoromethionine amide(WY-200) can be obtained by: reacting trifluoromethionine with methanol to produce trifluoromethionine methyl ester; and reacting ammonia with the trifluoromethionine methyl ester.

reactant | trifluoromethionine | FC(SCC[C@H](N)C(=O)O)(F)F | C5H8F3NO2S
reactant | methanol | CO | CH4O
product | trifluoromethionine methyl ester | COC([C@@H](N)CCSC(F)(F)F)=O | C6H10F3NO2S
